US04840947
9-Bromo-6-(1-methylpiperidin-4-yl)-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
1,2-Dibromoethane (0.5 ml) was added to a refluxing slurry of magnesium chips (12 gm) in tetrahydrofuran (60 ml) to initiate a Grignard reaction. N-Methyl-4-chloropiperidine (55 ml) in tetrahydrofuran (100 ml) was added rapidly. The mixture was refluxed for 1 hour, during which a white precipitate formed. A solution of 9-bromo-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine (30 gm) in tetrahydrofuran (150 ml) was added at 0° C. After one hour of stirring, the mixture was poured into cold saturated ammonium chloride solution (750 ml) and extracted with ethyl acetate (2×400 ml). The ammonium chloride solution was basified with ammonium hydroxide and extracted once with ethyl acetate (400 ml). The combined ethyl acetate solutions were washed with brine (2×500 ml), dried over anhydrous magnesium sulfate and concentrated to a solid (38 gm). The crude solid was purified by flash chromatography (700 gm silica, eluted with 4% methanol/dichloromethane, 6 L; 4 % methanol/0.5% ammonium hydroxide/dichloromethane, 4 L). The fractions containing the desired product were pooled and concentrated to give 23 gm of a solid. Recrystallization from dichloromethane/ethanol (200 ml:1 L) yielded 17.0 gm of crystals, m.p. 206°-208° C.

reactant | 1,2-Dibromoethane | 0.5 ml | BrCCBr | C2H4Br2
reactant | magnesium | [Mg] | Mg
reactant | N-Methyl-4-chloropiperidine | 55 ml | CN1CCC(CC1)Cl | C6H12ClN
reactant | 9-bromo-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 30 gm | BrC1=CC2=C(N3C4=C(C=N2)C=CC=C4CC3)C=C1 | C15H11BrN2
reactant | ammonium chloride | 750 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 9-Bromo-6-(1-methylpiperidin-4-yl)-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 23 gm | BrC1=CC2=C(N3C4=C(C(N2)C2CCN(CC2)C)C=CC=C4CC3)C=C1 | C21H24BrN3
